US20010025049A1
Intermediate 10 8-Difluoromethoxy-2-trifluoromethylquinoline-5-carboxylic acid
A mixture of 5-bromo-8-difluoromethoxy-2-trifluoromethylquinoline (6.0 g), triphenylphosphine (0.3 g), bis(triphenylphosphine)palladium (II) chloride (0.15 g), 47% sodium hydroxide solution (4.5 g) and water (12 ml) in tetrahydrofuran (50 ml) was purged with carbon monoxide gas in a Parr pressure reactor at 7 bar. This was heated to 100° C. for 24 h. After cooling and venting the reaction mixture was partitioned between sodium hydroxide solution (1.5 g in 50 ml) and tert-butyl methyl ether (100 ml). The organic solution was extracted with sodium hydroxide solution (2×5 g in 50 ml). The combined aqueous extracts were stirred with activated charcoal (1.5 g) for 15 minutes and then filtered. The filtrate was acidified to pH 4 using 37% hydrochloric acid solution and the resultant cream precipitate isolated by filtration and washed with water (20 ml). The crude product was purified by recrystallisation from toluene to give the product (1.8 g) as a cream solid.

reactant | 5-bromo-8-difluoromethoxy-2-trifluoromethylquinoline | 6.0 g | BrC1=C2C=CC(=NC2=C(C=C1)OC(F)F)C(F)(F)F | C11H5BrF5NO
reactant | triphenylphosphine | 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide | 4.5 g | [OH-].[Na+]
reactant | water | 12 ml | O | H2O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.15 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 8-Difluoromethoxy-2-trifluoromethylquinoline-5-carboxylic acid | 1.8 g | FC(OC1=CC=C(C=2C=CC(=NC12)C(F)(F)F)C(=O)O)F | C12H6F5NO3
